US07109192B2
4a) 1-benzyl-4-benzyloxy-3-nitro-pyridin-2-one
A solution of 4.68 g (30 mmol) of 2,4-dihydroxy-3-nitro-pyridine in 100 ml of dimethylformamide was combined batchwise at ambient temperature with 2.88 g (60 mmol) of a 50% suspension of sodium hydride in paraffin oil and stirred for 15 minutes. Then 8.91 ml (75 mmol) of benzylbromide were added and the mixture was stirred for 24 hours at 80° C. The solution was then carefully stirred into approx. 250 ml of water and extracted three times with 70 ml of ethyl acetate. The extracts were washed with saturated sodium chloride solution, dried and evaporated down in vacuo. The residue was triturated with diethyl ether, suction filtered and dried. The product thus obtained was further processed without any purification.

reactant | 2,4-dihydroxy-3-nitro-pyridine | 30 mmol, 4.68 g | OC1=NC=CC(=C1[N+](=O)[O-])O | C5H4N2O4
reactant | sodium hydride | [H-].[Na+]
reactant | benzylbromide | 75 mmol, 8.91 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | approx. 250 ml | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-benzyl-4-benzyloxy-3-nitro-pyridin-2-one | C(C1=CC=CC=C1)N1C(C(=C(C=C1)OCC1=CC=CC=C1)[N+](=O)[O-])=O | C19H16N2O4
